US04705846
To a stirred solution of 2.8 ml of diisopropylamine in 12 ml of tetrahydrofuran at -78° C. under argon is added 11.7 ml of n-butyllithium in hexane. After 15 min, a solution of 3.16 g of N-benzylidene-α-amino-γ-butyrolactone in 10 ml of tetrahydrofuran at -78° C. under argon is cannulated into the stirred reaction mixture. After 15 min, 2.14 ml of benzyl bromide is added. After 5 min, the reaction mixture is allowed to stir at room temperature for 24 hours. It is then cooled in an ice bath and 20 ml of 10% aqueous hydrogen chlorine is added. After stirring at room temperature for 1 hour, it is recooled in an ice bath and an excess of saturated aqueous sodium bicarbonate is slowly added. The resulting mixture is added to 200 ml of dichloromethane and washed with 50 ml of saturated aqueous sodium bicarbonate. The aqueous phase is extracted with three 100 ml portions of dichloromethane. The combined organic phae is dried (magnesium sulfate), filtered, and then concentrated. The resulting residue is flash-chromatographed on silica gel with ethyl acetate to 5% methanol in ethyl acetate to give 1.6 g of α-benzyl-α-amino-γ-butyrolactone as a yellow oil:

reactant | diisopropylamine | 2.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 11.7 ml | C(CCC)[Li]
reactant | N-benzylidene-α-amino-γ-butyrolactone | 3.16 g | C(C1=CC=CC=C1)=NC1C(=O)OCC1 | C11H11NO2
reactant | benzyl bromide | 2.14 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrogen chlorine | 20 ml | [H][H].ClCl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | α-benzyl-α-amino-γ-butyrolactone | 1.6 g | C(C1=CC=CC=C1)C1(C(=O)OCC1)N | C11H13NO2
